US05274002
Methyl 3-(4-amino-3-cyclopentoxyphenyl)-E-propenoate hydrochloride
To a stirred solution of 2.1 g (7.2 mmol) of methyl 3-(3-cyclopentoxy-4-nitrophenyl)-E-propenoate in 30 mL of methanol was added 6.3 mL (110.1 mmol) of glacial acetic acid and 2.0 g (35.8 mmol) of iron filings. The mixture was warmed to reflux and stirred for 16 hours after which time it was cooled to room temperature, filtered over Celite 545, and concentrated. Liquid chromatography over 200 g of silica gel using 50% ethyl acetate in hexane provided a pure oil. The product was dissolved in anhydrous ethyl ether, subjected to a stream of anhydrous hydrogen chloride gas upon which time an analytically pure, hydrochloride solid formed. The desired solid was collected, washed several times with anhydrous ethyl ether, and dried in vacuo.

reactant | methyl 3-(3-cyclopentoxy-4-nitrophenyl)-E-propenoate | 7.2 mmol, 2.1 g | C1(CCCC1)OC=1C=C(C=CC1[N+](=O)[O-])/C=C/C(=O)OC | C15H17NO5
reactant | acetic acid | 110.1 mmol, 6.3 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
solvent | ethyl ether | C(C)OCC | C4H10O
catalyst | iron | 35.8 mmol, 2.0 g | [Fe] | Fe
product | Methyl 3-(4-amino-3-cyclopentoxyphenyl)-E-propenoate hydrochloride | Cl.NC1=C(C=C(C=C1)/C=C/C(=O)OC)OC1CCCC1 | InChI=1S/C15H19NO3.ClH/c1-18-15(17)9-7-11-6-8-13(16)14(10-11)19-12-4-2-3-5-12;/h6-10,12H,2-5,16H2,1H3;1H/b9-7+;
